Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman, with no past medical history, 
who is presenting with episodic chest pain. Patient being 
admitted to ___ Service for further evaluation given 
concerns for myocarditis.  
 Patient reports that she had a prodrome about 5 days before, 
and started to have generalized malaise and fever. 6 days before 
she started to have diarrhea which was persistent, and then 
started to have tightness in her chest however this then 
resolved. She went to work and was able to work for about 12 
hours, and then started to have headaches which she attributed 
to not having caffeine. She then continued to have intermittent 
chest pain which was "crushing", and could not get comfortable. 
This chest pain initially woke her from sleep with chest 
pressure and tightness, and then she was nauseated at that time 
with headache. Chest pain lasted 2 hours. Patient then had chest 
pain again 2 days ago, and stats that she is also having 
intermittent sweats on and off with pallor. She has also 
endorsed chest palpitations during this time, and nausea with 
her symptoms. She has been having intermittent diarrhea during 
this time. Patient's symptoms sometimes last up to 90 minutes 
before having some resolution, however it has been difficult to 
fully characterize each episode.  
 Patient went to an ___ Urgent Care, found to have an 
elevated troponin-I to 4.25, at 9:39 AM on ___, and + d-dimer 
as well. Given concern for potential PE in this setting, with 
tense right leg and family history of lower extremity DVT in her 
sister who is undergoing surgery, patient underwent ___ and CTA 
which was negative for PE and DVT.  

 
Past Medical History:
none
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
General: Well appearing woman, no acute distress. Oriented x 3. 
Affect is appropriate, no cyanosis, tachypnea.  
 Neck: Supple, no cervical LAD. No JVD.  
 Cardiac: RRR, Normal S1, S2. No extra sounds.  
 Lungs: Clear to auscultation bilaterally, no adventitial 
sounds.  
 Abdomen: Soft, NT/ND. No hepatomegaly.  
 Extremities: No lower extremity edema bilaterally.  
 Skin: No skin lesions appreciated.  

 
Pertinent Results:
___ 06:15AM BLOOD WBC-8.7 RBC-4.48 Hgb-13.1 Hct-39.5 MCV-88 
MCH-29.2 MCHC-33.2 RDW-12.9 RDWSD-41.1 Plt ___
___ 02:50PM BLOOD Neuts-52.8 ___ Monos-9.5 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-4.91 AbsLymp-3.20 AbsMono-0.88* 
AbsEos-0.23 AbsBaso-0.06
___ 06:15AM BLOOD Glucose-76 UreaN-7 Creat-0.8 Na-142 K-3.8 
Cl-103 HCO3-25 AnGap-18
___ 06:15AM BLOOD CK-MB-2 cTropnT-0.20*
___ 12:48AM BLOOD cTropnT-0.34*
___ 02:50PM BLOOD cTropnT-0.37*
___ 02:50PM BLOOD CK-MB-20* MB Indx-6.9* proBNP-117
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman, with no past medical history, 
who presented to the ___ ED with episodic chest pain 
concerning for perimyocarditis. Patient reports that she had a 
prodrome about 5 days before, and started to have generalized 
malaise and fever. She also had diarrhea prior to her symptoms 
developing. She subsequently developed chest tightness that 
lasted ___ hours over the course of several days prior to 
admission. Patient went to an ___ Urgent Care, found to 
have an elevated troponin-I to 4.25, at 9:39 AM on ___, and + 
d-dimer as well. She was sent to ___ ED. Given concern for 
potential PE in this setting, with tense right leg and family 
history of lower extremity DVT in her sister who is undergoing 
surgery, patient underwent ___ and CTA which was negative for 
PE and DVT. 

Labs/studies notable for: WBC 9.3, PMN 52%, Hgb 12.9, Hct 38.5, 
Platelet 270. Sodium 140, K 3.9, Chloride 105, Bicarb 21, BUN 9, 
Cr 0.6. At ___ troponin peaked at 0.37 and trended down 0.2. 
She was treated with IV morphine, Tylenol and ibuprofen. EKG 
showed TWI in V2 that resolved on repeat EKG. Otherwise normal 
EKG. Her symptoms were improving on discharge. 

TRANSITIONAL ISSUES:
#follow up chest pain symptoms, consider repeat ESR/CRP in ___ 
weeks
#Continue NSAID taper as prescribed 
#If no improvement or worsening of symptoms can consider 
increasing NSAID dose vs. initiation of colchicine
#Consider referral to cardiology if no improvement
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 600 mg PO Q8H 
Please take every 8 hours for 5 days, followed by twice a day 
for 5 days, followed by 5 days daily 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 8 hours Disp 
#*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: PERIMYOCARDITIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were hospitalized after 
experiencing chest pain. It is suspected that you have 
perimyocarditis (infection of your heart muscle). It was thought 
this was likely cause by a viral infection. You had an 
ultrasound of your heart that showed normal function. You are 
going to be started on Ibuprofen to treat your pain. You should 
continue these medications as prescribed. Please take this 
medication with food.
--Please take 600mg Ibuprofen every 8 hours from ___
--Please take 600mg Ibuprofen every 12 hours from ___
--Please take 600mg Ibuprofen every day from ___

Please follow up with your primary care doctor. If you have 
worsening chest pain, pressure or shortness of breath please 
call your PCP or return to the emergency department. If your 
symptoms are not improving please ask your PCP to refer you to a 
cardiologist. 

We wish you a quick recovery!

Sincerely,

Your ___ Cardiology Team 
 
Followup Instructions:
___